US05175344
The starting material is manufactured as follows: Reaction of 3-methyl-2-methylene-butanal with isocyanoacetic acid ethyl ester analogously to Example 1 yields 5-(3-methyl-buten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester, which is hydrolysed analogously to Example 15 to 2-formylamino-3-hydroxy-4-isopropyl-4-pentenoic acid ethyl ester. Subsequent treatment with thionyl bromide followed by reaction with trimethyl phosphite analogously to Example 1 yields E-2-formylamino-4-isopropyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 3-methyl-2-methylene-butanal | CC(C(C=O)=C)C | C6H10O
reactant | isocyanoacetic acid ethyl ester | C(C)OC(C[N+]#[C-])=O | C5H7NO2
product | 5-(3-methyl-buten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C(=C)C(C)C | C11H17NO3
